US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(2,5-difluorophenoxy)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (200 mg, 0.613 mmol) and 2,5-difluorophenol were reacted as starting materials at 150° C. for 24 hours and post-treatment was then conducted, whereby the title compound was obtained as a colorless crystalline powder (235.5 mg, 91.5%). Melting point: 174.4-175.2° C. (chloroform-hexane).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.613 mmol, 200 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | 2,5-difluorophenol | FC1=C(C=C(C=C1)F)O | C6H4F2O
product | 3,4-bis(4-methoxyphenyl)-6-(2,5-difluorophenoxy)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)OC1=C(C=CC(=C1)F)F | C24H18F2N2O3
